US08426441B2
A mixture of (6-chloro-imidazo[1,2-b]pyridazin-8-yl)-pyridin-2-yl-amine (0.063 g, 0.26 mmol), 2 mL of toluene, 0.5 mL of ethanol, cyclohexen-1-yl boronic acid (0.065 g, 0.51 mmol), Pd(PPh3)4 (0.032 g, 0.027 mmol), and 0.36 mL of a 2 M aq. potassium carbonate solution under N2 was stirred at 170° C. in a microwave for 3 h. The mixture was partitioned between 10 mL of a 10% NaOH solution and 10 mL of dichloromethane. The aqueous layer was further extracted with 10 mL of dichloromethane. The combined organic layers were dried over MgSO4, filtered and concentrated to 0.093 g of a pale yellow oil. Column chromatography (0->33% EtOAc/hexanes) afforded 0.050 g (66%) of (6-cyclohex-1-enyl-imidazo[1,2-b]pyridazin-8-yl)-pyridin-2-yl-amine as a white solid.

reactant | (6-chloro-imidazo[1,2-b]pyridazin-8-yl)-pyridin-2-yl-amine | 0.26 mmol, 0.063 g | ClC=1C=C(C=2N(N1)C=CN2)NC2=NC=CC=C2 | C11H8ClN5
reactant | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
reactant | cyclohexen-1-yl boronic acid | 0.51 mmol, 0.065 g | C1(=CCCCC1)B(O)O | C6H11BO2
reactant | potassium carbonate | 2 M | C([O-])([O-])=O.[K+].[K+]
catalyst | Pd(PPh3)4 | 0.027 mmol, 0.032 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 0.5 mL | C(C)O | C2H6O
product | (6-cyclohex-1-enyl-imidazo[1,2-b]pyridazin-8-yl)-pyridin-2-yl-amine | 0.050 g, 66% | C1(=CCCCC1)C=1C=C(C=2N(N1)C=CN2)NC2=NC=CC=C2 | C17H17N5
